### PR TITLE
[Merged by Bors] - feat: port Data.Fin.Basic

### PR DESCRIPTION
**Pull request by j-loreaux**
mathlib3 SHA: 0bd2ea37bcba5769e14866170f251c9bc64e35d7

---

- [x] depends on: leanprover-community/mathlib#18107
- [x] depends on: #1499

### CODE REVIEW

**Comment by riccardobrasca** [comment]
What is the situation with this one? The only errors are linter erros (and all trivial to fix).

**Comment by Ruben-VandeVelde** [comment]
As far as I can tell, there's still a number of hairy compile errors to resolve

File: Mathlib/Data/Fin/Basic.lean [hunk 1]
```diff
@@ -104,231 +212,2385 @@ lemma Fin.ofNat'_succ : {n : Nat} → [Nonempty (Fin n)] →
...
+  reverse_induction_cast_succ _ _ _
+#align fin.last_cases_cast_succ Fin.last_cases_cast_succ
+
+/-- Define `f : Π i : fin (m + n), C i` by separately handling the cases `i = cast_add n i`,
+`j : fin m` and `i = nat_add m j`, `j : fin n`. -/
+@[elab_as_elim]
+def addCases {m n : ℕ} {C : Fin (m + n) → Sort u} (hleft : ∀ i, C (castAdd n i))
+    (hright : ∀ i, C (natAdd m i)) (i : Fin (m + n)) : C i :=
+  if hi : (i : ℕ) < m then Eq.recOn (cast_add_cast_lt n i hi) (hleft (castLt i hi))
+  else Eq.recOn (natAdd_subNat_cast (le_of_not_lt hi)) (hright _)
```
Comment (kbuzzard) [inline Mathlib/Data/Fin/Basic.lean:1875]: I am a bit confused by the state of this file. On my local machine if I pull and compile, then I get an error in this declaration, with Eq.recOn twice complaining about the motive. It's possible to supply the motives explicitly. Here's a fix where I supply the correct motive once, and use the non-stupid triangle (it's got much cleverer in Lean 4) for the other error:

```lean
@[elab_as_elim]
def addCases {m n : ℕ} {C : Fin (m + n) → Sort u} (hleft : ∀ i, C (castAdd n i))
    (hright : ∀ i, C (natAdd m i)) (i : Fin (m + n)) : C i :=
  if hi : (i : ℕ) < m then Eq.recOn 
    (motive := λ a (_ : ((castAdd n).toEmbedding (castLt i hi)) = a) => C a)
    (cast_add_cast_lt n i hi) (hleft (castLt i hi))
  else (natAdd_subNat_cast (le_of_not_lt hi)) ▸ (hright _)
```

But in fact you can check that this is defeq to
```lean
@[elab_as_elim]
def addCases' {m n : ℕ} {C : Fin (m + n) → Sort u} (hleft : ∀ i, C (castAdd n i))
    (hright : ∀ i, C (natAdd m i)) (i : Fin (m + n)) : C i :=
  if hi : (i : ℕ) < m then cast_add_cast_lt n i hi ▸ hleft (castLt i hi)
  else (natAdd_subNat_cast (le_of_not_lt hi)) ▸ (hright _)
```
so if there is actually an error here then this is my proposed fix, and if there isn't an error here then please feel free to ignore me.

File: Mathlib/Data/Fin/Basic.lean [hunk 2]
```diff
@@ -104,231 +212,2385 @@ lemma Fin.ofNat'_succ : {n : Nat} → [Nonempty (Fin n)] →
...
+
+theorem succAbove_ne_zero {a : Fin (n + 2)} {b : Fin (n + 1)} (ha : a ≠ 0) (hb : b ≠ 0) :
+    a.succAbove b ≠ 0 :=
+  mt (succAbove_eq_zero_iff ha).mp hb
+#align fin.succ_above_ne_zero Fin.succAbove_ne_zero
+
+/-- Embedding `fin n` into `fin (n + 1)` with a hole around zero embeds by `succ`. -/
+@[simp]
+theorem succAbove_zero : ⇑(succAbove (0 : Fin (n + 1))) = Fin.succ :=
+  rfl
```
Comment (kbuzzard) [inline Mathlib/Data/Fin/Basic.lean:2084]: This works:
```lean
theorem succAbove_zero : ⇑(succAbove (0 : Fin (n + 1))) = Fin.succ := by
  simp [succAbove]
```

File: Mathlib/Data/Fin/Basic.lean [hunk 3]
```diff
@@ -1,99 +1,207 @@
...
-section
+--#print Fin.ext_iff /-
+theorem ext_iff {a b : Fin n} : a = b ↔ (a : ℕ) = b :=
+  Iff.intro (congr_arg _) Fin.eq_of_veq
+#align fin.ext_iff Fin.ext_iff
 
-variable {n : Nat} [Nonempty (Fin n)]
+section from_ad_hoc
+-- porting note: this comes from the ad hoc port of this file
+variable [Nonempty (Fin n)]
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:200]: I would argue we should delete this

File: Mathlib/Data/Fin/Basic.lean (hunk 2 above)
Comment (kbuzzard) [reply Mathlib/Data/Fin/Basic.lean]: Answer (according to the porting meeting): we do understand (the definition of `0 : Fin (n + 1)` changed) and it's not clear whether we should press on or try something else.

File: lake-manifest.json [hunk 4]
```diff
@@ -2,30 +2,6 @@
  "packagesDir": "./lake-packages",
  "packages":
  [{"git":
-   {"url": "https://github.com/xubaiw/CMark.lean",
```
Comment (Ruben-VandeVelde) [inline lake-manifest.json:5]: What happened here?

Comment (jcommelin) [reply lake-manifest.json]: some oopsie from long ago, it seems

**Comment by eric-wieser** [comment]
Just to keep track, [here's the current diff with mathport](https://github.com/leanprover-community/mathlib4/compare/c1d065bed73785ad74baef6158ca431f32988cf2..j-loreaux/data.fin.basic)

File: Mathlib/Data/Fin/Basic.lean [hunk 5]
```diff
@@ -1,118 +1,720 @@
...
+
+#align fin.fin_to_nat Fin.coeToNat
+
+theorem val_injective : Function.Injective (@Fin.val n) :=
+  @Fin.eq_of_veq n
+#align fin.val_injective Fin.val_injective
+
+section from_ad_hoc
+-- porting note: the next seven lemmas aren't from mathlib3, but the `*_def` ones were in lean3 core
+-- and they were in the ad hoc port of this file
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:113]: Shouldn't these go to `Mathlib.Init.Data.Fin.Ops` to match lean3 then?

File: Mathlib/Data/Fin/Basic.lean [hunk 6]
```diff
@@ -1,118 +1,720 @@
...
+  simp [eq_iff_veq, add_def, mod_eq_of_lt (is_lt k)]
+#align fin.add_zero Fin.add_zero
+
+--Porting note: removing `simp`, `simp` can prove it with AddCommMonoid instance
+protected theorem zero_add (k : Fin (n + 1)) : (0 : Fin (n + 1)) + k = k := by
+  simp [eq_iff_veq, add_def, mod_eq_of_lt (is_lt k)]
+#align fin.zero_add Fin.zero_add
+
+/- Porting note: (Algebraic structure on `Fin n`)
+The basic structures on `Fin` are predicated on `Fin n` being nonempty.
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:697]: Why are we refactoring fin in the port to use `[Nonempty (Fin n)]` on the algebraic structures? I don't think we should do a refactor just because the add_hoc port did.

Comment (eric-wieser) [reply Mathlib/Data/Fin/Basic.lean:697]: (or alternatively; if we need this refactor, we should do it in lean3 first)

Comment (jcommelin) [reply Mathlib/Data/Fin/Basic.lean:697]: @digama0 what do you think? Should `UInt.lean` be refactored back to the way it is in Lean 3? Or should we go the `Nonempty` path?

Comment (alreadydone) [reply Mathlib/Data/Fin/Basic.lean:697]: [ne_zero n] is surely better than [nonempty (fin n)]?

Comment (eric-wieser) [reply Mathlib/Data/Fin/Basic.lean:697]: Arguably not doing refactors at all in the port is the better way to go, unless they're unavoidable.

Comment (digama0) [reply Mathlib/Data/Fin/Basic.lean:697]: @eric-wieser See https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Data.2EFin.2EBasic.20.28mathlib4.231084.29/near/319932669 . `Fin n` (where `n` is not syntactically of the form `n+1`) not being a ring in lean 3 is one of the main reasons that `zmod` even exists, it is a major pain point. In lean 4 we can't avoid this anymore because `UInt8` are new core types that rely essentially on having a ring instance on `Fin size` where `size` is some definition for a positive number like 256.

Comment (eric-wieser) [reply Mathlib/Data/Fin/Basic.lean:697]: In Lean 3 it only has to be definitionally of the form `n + 1`, doesn't it? So `fin 256` already has that ring structure. Is Lean4 different somehow here?

At any rate, it feels like if this is a big deal for the port, then we should refactor the instance in Lean3; otherwise, we'll have no idea what downstream code breaks as a result, until we're mid-port and it's too late to try a different approach.

Comment (digama0) [reply Mathlib/Data/Fin/Basic.lean:697]: > In Lean 3 it only has to be definitionally of the form `n + 1`, doesn't it? So `fin 256` already has that ring structure. Is Lean4 different somehow here?

No, in both lean 3 and lean 4 instance search only unfolds reducibles, this is how you can have a different order instance on `A` and `OrderDual A`. Besides that it isn't possible to solve a unification problem like `size = ?n + 1` without unfolding and reducing `size`, which would be a huge issue if `size` is, say, 2^64....

> At any rate, it feels like if this is a big deal for the port, then we should refactor the instance in Lean3; otherwise, we'll have no idea what downstream code breaks as a result, until we're mid-port and it's too late to try a different approach.

Okay. I think the fallout from the refactor will not be too much since the new one is strictly more general (since `n+1` is nonzero, however we decide to spell that) and all the action is happening inside instance search, which is already not expected to be exactly the same between lean 3 and lean 4. But I'm not against backporting this, and indeed we might even be able to unify `zmod` and `fin` if we do (although I don't really want to propose that at this point).

Comment (alreadydone) [reply Mathlib/Data/Fin/Basic.lean:697]: `zmod 0 = int` but `fin 0` is empty so I don't see how it's possible to unify them ...

**Review by eric-wieser — DISMISSED** [review]
Just noting that I would prefer we wait for https://github.com/leanprover/lean4/pull/2020 and then restore some defeqs; otherwise I expect problems in the rest of mathlib.

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib#18107
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib#18107~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib#18107~~
* ~~leanprover-community/mathlib4#1499~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by eric-wieser** [comment]
Some initial notes from that diff:
* It seems you left in some `#print`s, but commented them out
* `one_val` from the ad-hoc port is a duplicate of `val_one` from the real port
* `coe_one'` is syntactically a duplicate of `one_val'`
* `val_one` is syntactically a duplicate of `val_one'`

**Comment by ChrisHughes24** [comment]
Should be ready now I think

File: Mathlib/Data/Fin/Basic.lean [hunk 7]
```diff
@@ -1,118 +1,691 @@
...
+theorem mk_val' (i : Fin n) : (⟨i, i.isLt⟩ : Fin n) = i :=
+  Fin.eta _ _
+#align fin.mk_coe Fin.mk_val'
+-- porting note: `Fin.mk_val` already exists above and has a different type signature
+
+-- syntactic tautologies now
+#noalign fin.coe_eq_val
+#noalign fin.val_eq_coe
+
+/-- Assume `k = l`. If two functions defined on `fin k` and `fin l` are equal on each element,
```
Comment (qawbecrdtey) [inline Mathlib/Data/Fin/Basic.lean:251]: `fin` -> `Fin`

File: Mathlib/Data/Fin/Basic.lean [hunk 8]
```diff
@@ -1,118 +1,691 @@
...
+```lean
+def factorial {n : ℕ} : Fin n → ℕ
+| ⟨0, _⟩ := 1
+| ⟨i + 1, hi⟩ := (i + 1) * factorial ⟨i, i.lt_succ_self.trans hi⟩
+```
+-/
+instance {n : ℕ} : WellFoundedRelation (Fin n) :=
+  measure (val : Fin n → ℕ)
+
+/-- Given a positive `n`, `fin.of_nat' i` is `i % n` as an element of `fin n`. -/
```
Comment (qawbecrdtey) [inline Mathlib/Data/Fin/Basic.lean:390]: `fin.of_nat` -> `Fin.ofNat`

File: Mathlib/Data/Fin/Basic.lean [hunk 9]
```diff
@@ -1,118 +1,691 @@
...
+    simp only [zero_eq, mk_zero] -- was `rfl`
+  · right
+    exact ⟨⟨j, Nat.lt_of_succ_lt_succ h⟩, rfl⟩
+#align fin.eq_zero_or_eq_succ Fin.eq_zero_or_eq_succ
+
+theorem eq_succ_of_ne_zero {n : ℕ} {i : Fin (n + 1)} (hi : i ≠ 0) : ∃ j : Fin n, i = j.succ :=
+  (eq_zero_or_eq_succ i).resolve_left hi
+#align fin.eq_succ_of_ne_zero Fin.eq_succ_of_ne_zero
+
+/-- The antitone involution `fin n → fin n` given by `i ↦ n-(i+1)`. -/
```
Comment (qawbecrdtey) [inline Mathlib/Data/Fin/Basic.lean:441]: `fin` -> `Fin`

File: Mathlib/Data/Fin/Basic.lean [hunk 10]
```diff
@@ -255,80 +776,1920 @@ instance : MonoidWithZero (Fin n) where
...
-lemma Fin.lt_iff_le_not_le (a b : Fin n) : a < b ↔ a ≤ b ∧ ¬b ≤ a := Nat.lt_iff_le_not_le
-lemma Fin.le_antisymm (a b : Fin n) : a ≤ b → b ≤ a → a = b := by
-  intro h1 h2
-  apply Fin.eq_of_val_eq
-  exact Nat.le_antisymm h1 h2
+section Succ
 
-lemma Fin.le_total (a b : Fin n) : a ≤ b ∨ b ≤ a := Nat.le_total _ _
+/-!
+### succ and casts into larger fin types
```
Comment (qawbecrdtey) [inline Mathlib/Data/Fin/Basic.lean:975]: `fin` -> `Fin`

File: Mathlib/Data/Fin/Basic.lean [hunk 11]
```diff
@@ -255,80 +776,1920 @@ instance : MonoidWithZero (Fin n) where
...
+@[simp]
+theorem le_zero_iff {n : ℕ} [NeZero n] {k : Fin n} : k ≤ 0 ↔ k = 0 :=
+  ⟨fun h => Fin.eq_of_veq $ by rw [Nat.eq_zero_of_le_zero h]; rfl, by rintro rfl; exact le_refl _⟩
+#align fin.le_zero_iff Fin.le_zero_iff
+
+theorem succ_succ_ne_one (a : Fin n) : Fin.succ (Fin.succ a) ≠ 1 :=
+  ne_of_gt (one_lt_succ_succ a)
+#align fin.succ_succ_ne_one Fin.succ_succ_ne_one
+
+/-- `castLt i h` embeds `i` into a `fin` where `h` proves it belongs into.  -/
```
Comment (qawbecrdtey) [inline Mathlib/Data/Fin/Basic.lean:1105]: `fin` -> `Fin`

File: Mathlib/Data/Fin/Basic.lean [hunk 12]
```diff
@@ -255,80 +776,1920 @@ instance : MonoidWithZero (Fin n) where
...
+  rfl
+#align fin.add_nat_mk Fin.addNat_mk
+
+@[simp]
+theorem cast_addNat_zero {n n' : ℕ} (i : Fin n) (h : n + 0 = n') :
+    cast h (addNat 0 i) = cast ((add_zero _).symm.trans h) i :=
+  ext <| add_zero _
+#align fin.cast_add_nat_zero Fin.cast_addNat_zero
+
+/-- For rewriting in the reverse direction, see `fin.cast_addNat_left`. -/
```
Comment (qawbecrdtey) [inline Mathlib/Data/Fin/Basic.lean:1480]: `fin` -> `Fin`

File: Mathlib/Data/Fin/Basic.lean [hunk 13]
```diff
@@ -255,80 +776,1920 @@ instance : MonoidWithZero (Fin n) where
...
+theorem le_coe_natAdd (m : ℕ) (i : Fin n) : m ≤ natAdd m i :=
+  Nat.le_add_right _ _
+#align fin.le_coe_nat_add Fin.le_coe_natAdd
+
+theorem natAdd_zero {n : ℕ} : Fin.natAdd 0 = (Fin.cast (zero_add n).symm).toRelEmbedding := by
+  ext
+  simp
+#align fin.nat_add_zero Fin.natAdd_zero
+
+/-- For rewriting in the reverse direction, see `fin.cast_nat_add_right`. -/
```
Comment (qawbecrdtey) [inline Mathlib/Data/Fin/Basic.lean:1523]: `fin.cast_nat_add_right` -> `Fin.cast_natAdd_right`

File: Mathlib/Data/Fin/Basic.lean [hunk 14]
```diff
@@ -255,80 +776,1920 @@ instance : MonoidWithZero (Fin n) where
...
+    (hs : ∀ i : Fin n, C i.succ → C (castSucc i)) (i : Fin n) :
+    (reverseInduction h0 hs (castSucc i) : C (castSucc i)) = hs i (reverseInduction h0 hs i.succ) :=
+  by
+  rw [reverseInduction, dif_neg (_root_.ne_of_lt (Fin.castSucc_lt_last i))]
+  cases i
+  rfl
+#align fin.reverse_induction_cast_succ Fin.reverse_induction_castSucc
+
+/-- Define `f : Π i : Fin n.succ, C i` by separately handling the cases `i = Fin.last n` and
+`i = j.castSucc`, `j : fin n`. -/
```
Comment (qawbecrdtey) [inline Mathlib/Data/Fin/Basic.lean:1926]: `fin` -> `Fin`

File: Mathlib/Data/Fin/Basic.lean [hunk 15]
```diff
@@ -255,80 +776,1920 @@ instance : MonoidWithZero (Fin n) where
...
+
+@[simp]
+theorem lastCases_castSucc {n : ℕ} {C : Fin (n + 1) → Sort _} (hlast : C (Fin.last n))
+    (hcast : ∀ i : Fin n, C (castSucc i)) (i : Fin n) :
+    (Fin.lastCases hlast hcast (Fin.castSucc i) : C (Fin.castSucc i)) = hcast i :=
+  reverse_induction_castSucc _ _ _
+#align fin.last_cases_cast_succ Fin.lastCases_castSucc
+
+/-- Define `f : Π i : fin (m + n), C i` by separately handling the cases `i = cast_add n i`,
+`j : fin m` and `i = nat_add m j`, `j : fin n`. -/
```
Comment (qawbecrdtey) [inline Mathlib/Data/Fin/Basic.lean:1948]: `fin` -> `Fin`

File: Mathlib/Data/Fin/Basic.lean [hunk 16]
```diff
@@ -255,80 +776,1920 @@ instance : MonoidWithZero (Fin n) where
...
+protected theorem mul_zero (k : Fin (n + 1)) : k * 0 = 0 := by simp [eq_iff_veq, mul_def]
+#align fin.mul_zero Fin.mul_zero
+
+protected theorem zero_mul (k : Fin (n + 1)) : (0 : Fin (n + 1)) * k = 0 := by
+  simp [eq_iff_veq, mul_def]
+#align fin.zero_mul Fin.zero_mul
+
+end Mul
+
+end Fin
```
Comment (qawbecrdtey) [inline Mathlib/Data/Fin/Basic.lean:2695]: :tada:

File: Mathlib/Data/Fin/Basic.lean [hunk 17]
```diff
@@ -121,13 +154,13 @@ protected theorem pos (i : Fin n) : 0 < n :=
...
 #align fin.pos_iff_nonempty Fin.pos_iff_nonempty
 
-/-- Equivalence between `fin n` and `{ i // i < n }`. -/
-@[simps apply symmApply]
-def equivSubtype : Fin n ≃ { i // i < n }
-    where
+/-- Equivalence between `Fin n` and `{ i // i < n }`. -/
+@[simps apply symm_apply]
+def equivSubtype : Fin n ≃ { i //
+        i < n } where
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:163]:
```suggestion
def equivSubtype : Fin n ≃ { i // i < n } where
```

File: Mathlib/Data/Fin/Basic.lean [hunk 18]
```diff
@@ -140,34 +173,40 @@ section coe
...
+section from_ad_hoc
+-- porting note: this comes from the ad hoc port of this file
+variable [NeZero n]
+
+@[to_additive_fixed_numeral]
+instance : OfNat (Fin n) x where
+  ofNat := Fin.ofNat' x (NeZero.pos n)
+
+@[simp] lemma ofNat'_zero : (Fin.ofNat' 0 h : Fin n) = 0 := rfl
+@[simp] lemma ofNat'_one : (Fin.ofNat' 1 h : Fin n) = 1 := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:199]: Can we move this down to where it exists in mathlib3?

File: Mathlib/Data/Fin/Basic.lean [hunk 19]
```diff
@@ -299,120 +332,104 @@ theorem mk_lt_mk {x y : Nat} {hx} {hy} : (⟨x, hx⟩ : Fin n) < ⟨y, hy⟩ ↔
...
+-- porting note: `Fin.ofNat'` conflicts with something in core (there the hypothesis is `n > 0`),
+-- so for now we make this double-prime `''`. This is also the reason for the dubious translation.
 
-attribute [simp] val_zero
+instance {n : ℕ} [NeZero n] : Zero (Fin n) := ⟨ofNat'' 0⟩
+instance {n : ℕ} [NeZero n] : One (Fin n) := ⟨ofNat'' 1⟩
 
 @[simp]
-theorem val_zero' (n) [NeZero n] : (0 : Fin n).val = 0 :=
+theorem val_zero {n : ℕ} [NeZero n] : ((0 : Fin n) : ℕ) = 0 :=
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:401]: Why did `n` change to implicit here?
```suggestion
theorem val_zero (n : ℕ) [NeZero n] : ((0 : Fin n) : ℕ) = 0 :=
```

File: Mathlib/Data/Fin/Basic.lean [hunk 20]
```diff
@@ -597,147 +615,264 @@ end Order
...
-theorem coe_one (n : ℕ) : ((1 : Fin (n + 2)) : ℕ) = 1 :=
+theorem val_one' (n : ℕ) [NeZero n] : ((1 : Fin n) : ℕ) = 1 % n :=
   rfl
-#align fin.coe_one Fin.coe_one
+#align fin.coe_one' Fin.val_one'
+
+--Porting note: Delete this lemma after porting
+theorem val_one'' {n : ℕ} : ((1 : Fin (n + 1)) : ℕ) = 1 % (n + 1) :=
+  rfl
+#align fin.one_val Fin.val_one''
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:636]: Any reason we can't keep the original name?

File: Mathlib/Data/Fin/Basic.lean [hunk 21]
```diff
@@ -597,147 +615,264 @@ end Order
...
+    apply Fin.eq_of_val_eq
+    simp only [Fin.mul_def]
+    generalize lhs : ((a.val * b.val) % n * c.val) % n = l
+    generalize rhs : a.val * (b.val * c.val % n) % n = r
+    rw [← Nat.mod_eq_of_lt c.isLt, (Nat.mul_mod (a.val * b.val) c.val n).symm] at lhs
+    rw [← Nat.mod_eq_of_lt a.isLt, (Nat.mul_mod a.val (b.val * c.val) n).symm,
+        ← Nat.mul_assoc] at rhs
+    rw [← lhs, ← rhs]
+  mul_comm (a b : Fin n) : a * b = b * a := by
+    apply Fin.eq_of_val_eq; simp only [Fin.mul_def, Nat.mul_comm]
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:699]: Where did this come from? In lean3 this instance is in data/zmod/basic, so I don't think we should have it in this file.

File: Mathlib/Data/Fin/Basic.lean [hunk 22]
```diff
@@ -597,147 +615,264 @@ end Order
...
+
+-- Porting note: new
+@[simp] lemma zero_def (n) [NeZero n] : (0 : Fin n).val = (0 : Nat) :=
+  show (Fin.ofNat' 0 Fin.size_positive').val = (0 : Nat) by simp only [Fin.ofNat', Nat.zero_mod]
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:703]: Not new, this is `fin.coe_zero` in lean 3

File: Mathlib/Data/Fin/Basic.lean [hunk 23]
```diff
@@ -597,147 +615,264 @@ end Order
...
+
+-- Porting note: new
+@[simp] lemma one_def (n) [NeZero n] : (1 : Fin n).val = (1 % n : Nat) :=
+  show (Fin.ofNat' 1 Fin.size_positive').val = 1 % n by simp [Fin.ofNat']
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:707]: Not new, this is `coe_one'` in Lean 3

File: Mathlib/Data/Fin/Basic.lean [hunk 24]
```diff
@@ -597,147 +615,264 @@ end Order
...
+    rw [← lhs, left_distrib]
+
+-- Porting note: new
+instance (n) [NeZero n] : CommSemiring (Fin n) where
+  __ := inferInstanceAs (MonoidWithZero (Fin n))
+  __ := inferInstanceAs (CommSemigroup (Fin n))
+  __ := inferInstanceAs (AddCommMonoid (Fin n))
+  __ := inferInstanceAs (AddMonoidWithOne (Fin n))
+  left_distrib := Fin.mul_add
+  right_distrib a b c := (by rw [mul_comm, Fin.mul_add, mul_comm c, mul_comm c])
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:794]: These belong in data/zmod/basic to match Lean 3.

**Review by eric-wieser — CHANGES_REQUESTED** [review]
An initial round of comparison with the mathport output.

File: Mathlib/Data/Fin/Basic.lean [hunk 25]
```diff
@@ -1972,375 +2114,414 @@ theorem sub_one_lt_iff {n : ℕ} {k : Fin (n + 1)} : k - 1 < k ↔ 0 < k :=
...
 
-/-- Embedding `fin n` into `fin (n + 1)` with a hole around zero embeds by `succ`. -/
+-- porting note: was `rfl` but definition of `0 : Fin (n + 1)` has changed
+/-- Embedding `Fin n` into `Fin (n + 1)` with a hole around zero embeds by `succ`. -/
 @[simp]
-theorem succ_above_zero : ⇑(succAbove (0 : Fin (n + 1))) = Fin.succ :=
-  rfl
-#align fin.succ_above_zero Fin.succ_above_zero
+theorem succAbove_zero : ⇑(succAbove (0 : Fin (n + 1))) = Fin.succ := by
+  simp [succAbove]
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:2203]:
```suggestion
  rfl
```

File: Mathlib/Data/Fin/Basic.lean [hunk 26]
```diff
@@ -1972,375 +2114,414 @@ theorem sub_one_lt_iff {n : ℕ} {k : Fin (n + 1)} : k - 1 < k ↔ 0 < k :=
...
-theorem succ_above_ne_zero [NeZero n] {a : Fin (n + 1)} {b : Fin n} (ha : a ≠ 0) (hb : b ≠ 0) :
+theorem succAbove_ne_zero [NeZero n] {a : Fin (n + 1)} {b : Fin n} (ha : a ≠ 0) (hb : b ≠ 0) :
     a.succAbove b ≠ 0 :=
-  mt (succ_above_eq_zero_iff ha).mp hb
-#align fin.succ_above_ne_zero Fin.succ_above_ne_zero
+  mt (succAbove_eq_zero_iff ha).mp hb
+#align fin.succ_above_ne_zero Fin.succAbove_ne_zero
 
-/-- Embedding `fin n` into `fin (n + 1)` with a hole around zero embeds by `succ`. -/
+-- porting note: was `rfl` but definition of `0 : Fin (n + 1)` has changed
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:2199]: This is no longer true

File: Mathlib/Data/Fin/Basic.lean [hunk 27]
```diff
@@ -299,120 +332,104 @@ theorem mk_lt_mk {x y : Nat} {hx} {hy} : (⟨x, hx⟩ : Fin n) < ⟨y, hy⟩ ↔
...
+  rw [← val_fin_lt, val_zero, _root_.pos_iff_ne_zero, Ne.def, Ne.def, ext_iff, val_zero]
 #align fin.pos_iff_ne_zero Fin.pos_iff_ne_zero
 
-theorem eq_zero_or_eq_succ {n : ℕ} (i : Fin (n + 1)) : i = 0 ∨ ∃ j : Fin n, i = j.succ :=
-  by
+theorem eq_zero_or_eq_succ {n : ℕ} (i : Fin (n + 1)) : i = 0 ∨ ∃ j : Fin n, i = j.succ := by
   rcases i with ⟨_ | j, h⟩
   · left
-    rfl
+    simp only [zero_eq, mk_zero] -- was `rfl`
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:432]: I assume `rfl` still works here now

File: Mathlib/Data/Fin/Basic.lean [hunk 28]
```diff
@@ -299,120 +332,104 @@ theorem mk_lt_mk {x y : Nat} {hx} {hy} : (⟨x, hx⟩ : Fin n) < ⟨y, hy⟩ ↔
...
 
 theorem zero_lt_one : (0 : Fin (n + 2)) < 1 :=
   Nat.zero_lt_one
 #align fin.zero_lt_one Fin.zero_lt_one
 
 @[simp]
-theorem not_lt_zero (a : Fin n.succ) : ¬a < 0 :=
-  fun.
+theorem not_lt_zero (a : Fin n.succ) : ¬a < 0 := by
+  simp only [lt_iff_val_lt_val, val_zero, not_lt_zero', not_false_iff] -- was `fun.`
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:422]: This proof might work again too

File: Mathlib/Data/Fin/Basic.lean [hunk 29]
```diff
@@ -2352,130 +2397,117 @@ theorem succ_above_pred_above {p : Fin n} {i : Fin (n + 1)} (h : i ≠ p.cast_su
...
-#align fin.lt_last_iff_coe_cast_pred Fin.lt_last_iff_coe_cast_pred
+#align fin.lt_last_iff_coe_cast_pred Fin.lt_last_iff_coe_castPred
 
 end PredAbove
 
-/-- `min n m` as an element of `fin (m + 1)` -/
+/-- `min n m` as an element of `Fin (m + 1)` -/
 def clamp (n m : ℕ) : Fin (m + 1) :=
-  of_nat <| min n m
+  OfNat.ofNat <| min n m
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:2510]: @digama0, are direct invocations of `ofNat` without a literal a bad idea?

File: Mathlib/Data/Fin/Basic.lean [hunk 30]
```diff
@@ -2538,21 +2568,65 @@ protected theorem zero_mul [NeZero n] (k : Fin n) : (0 : Fin n) * k = 0 := by
...
-  | 0 => finZeroElim
-  | n + 1 =>
-    nat.mk_numeral q(Fin n.succ) q((by infer_instance : Zero (Fin n.succ)))
-        q((by infer_instance : One (Fin n.succ))) q((by infer_instance : Add (Fin n.succ))) ∘
-      Fin.val
-#align fin.reflect fin.reflect
-
-end
+-- Porting note: these belong in `Mathlib/Data/ZMod/Defs.lean`
+section from_ad_hoc
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:2572]: Should we move these now, or let the person porting `Data/Zmod/Defs` handle it?

File: Mathlib/Data/Fin/Basic.lean [hunk 31]
```diff
@@ -597,147 +598,189 @@ end Order
...
+  generalize hy : x * a % n = y
+  rw [← Nat.mod_eq_of_lt isLt, ← Nat.mul_mod, hy]
+
+instance addCommMonoid (n) [NeZero n] : AddCommMonoid (Fin n) where
+  __ := inferInstanceAs (AddCommSemigroup (Fin n))
+
+  add_zero := Fin.add_zero
+  zero_add := Fin.zero_add
+
+  nsmul := fun x a ↦ (Fin.ofNat' x a.size_positive) * a
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:688]: This is a defeq change from mathlib3 that:
1. isn't obviously an improvement
2. should be backported first if we want to make it

**Review by eric-wieser — DISMISSED** [review]
There's a refactor hidden in the adhoc port here

File: Mathlib/Data/Fin/Basic.lean [hunk 32]
```diff
@@ -2483,10 +2337,7 @@ theorem castPred_mk (n i : ℕ) (h : i < n + 1) : castPred ⟨i, lt_succ_of_lt h
 theorem castPred_mk' (n i : ℕ) (h₁ : i < n + 2) (h₂ : i < n + 1) : castPred ⟨i, h₁⟩ = ⟨i, h₂⟩ :=
   castPred_mk _ _ _
 
--- porting note: ``hx` was `a < Fin.last _` but Lean 4 needs to be told _ = n + 1
--- because it guesses wrong otherwise!
--- **TODO** minimise and open a Lean 4 issue about this
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean]: This problem seemed to no longer exist

File: Mathlib/Data/Fin/Basic.lean (hunk 31 above)
Comment (eric-wieser) [reply Mathlib/Data/Fin/Basic.lean]: Discussion on Zulip concluded we should just revert it.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

**Comment by jcommelin** [comment]
bors merge

File: Mathlib/Data/Fin/Basic.lean [hunk 33]
```diff
@@ -1,334 +1,2533 @@
...
+@[simp]
+theorem coe_ofNat_eq_mod' (m n : ℕ) [NeZero m] :
+    (@Fin.ofNat' m n (Nat.pos_of_ne_zero (NeZero.ne m)) : ℕ) = n % m :=
+  rfl
+#align fin.coe_of_nat_eq_mod' Fin.coe_ofNat_eq_mod'
+
+@[simp]
+theorem coe_of_nat_eq_mod (m n : ℕ) : ((n : Fin (m+1)) : ℕ) = n % Nat.succ m :=
+  rfl
+#align fin.coe_of_nat_eq_mod Fin.coe_of_nat_eq_mod
```
Comment (alreadydone) [inline Mathlib/Data/Fin/Basic.lean:2491]: seems we need a matching PR to your [#18131](https://github.com/leanprover-community/mathlib/pull/18131). @negiizhao will you do it?

File: Mathlib/Data/Fin/Basic.lean (hunk 29 above)
Comment (digama0) [reply Mathlib/Data/Fin/Basic.lean:2474]: I would say yes, you should use a different function like `Nat.cast` for non-literals. Using `ofNat` will make some tactics get confused about the term.

Comment (jcommelin) [reply Mathlib/Data/Fin/Basic.lean:2474]: fixed in #1521

File: Mathlib/Data/Fin/Basic.lean (hunk 33 above)
Comment (alreadydone) [reply Mathlib/Data/Fin/Basic.lean:2491]: Just noticed the LHS of these two theorems look syntactically different, but they were the same in mathlib3. The latter is now removed from mathlib3, and the former is renamed to the latter, so the first #align should fail and the second #align should be a misalignment now. Can we change the statement of the former to `((n : Fin m) : ℕ) = n % m` and remove the latter?
